*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-78N
* Inductance = 0.0762uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 3MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-78N_freq port1 port2 PARAMS: Cpar=2.08pF Ind=0.0762uH
X1 port1 port2 Model1B PARAMS:
+ R1=2010
+ R2=0.0785
+ C= {Cpar}
+ K1=0
+ K2=0.0653
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=187.687758
.ends 0805LS-78N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-111
* Inductance = 0.108uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 3MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-111_freq port1 port2 PARAMS: Cpar=8.53pF Ind=0.108uH
X1 port1 port2 Model1B PARAMS:
+ R1=1590
+ R2=0.142
+ C= {Cpar}
+ K1=0.0000129
+ K2=0.114
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=111.867342
.ends 0805LS-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-471
* Inductance = 0.465uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-240MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-471_freq port1 port2 PARAMS: Cpar=0.062pF Ind=0.465uH
X1 port1 port2 Model1B PARAMS:
+ R1=3370
+ R2=0.292
+ C= {Cpar}
+ K1=0.0000252
+ K2=0.305
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2772.59388
.ends 0805LS-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-681
* Inductance = 0.677uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-681_freq port1 port2 PARAMS: Cpar=0.17pF Ind=0.677uH
X1 port1 port2 Model1B PARAMS:
+ R1=3440
+ R2=0.459
+ C= {Cpar}
+ K1=0.00000999
+ K2=0.48
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2045.77152
.ends 0805LS-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-102_freq port1 port2 PARAMS: Cpar=0.142pF Ind=1uH
X1 port1 port2 Model1B PARAMS:
+ R1=9680
+ R2=0.724
+ C= {Cpar}
+ K1=0.0000084
+ K2=0.682
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2574.73223
.ends 0805LS-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-122_freq port1 port2 PARAMS: Cpar=0.145pF Ind=1.2uH
X1 port1 port2 Model1B PARAMS:
+ R1=10000
+ R2=1.2
+ C= {Cpar}
+ K1=0.000015
+ K2=1.1
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2859.1337
.ends 0805LS-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-152
* Inductance = 1.55uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-152_freq port1 port2 PARAMS: Cpar=0.149pF Ind=1.55uH
X1 port1 port2 Model1B PARAMS:
+ R1=19000
+ R2=0.902
+ C= {Cpar}
+ K1=0.000011
+ K2=1.19
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3157.86758
.ends 0805LS-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-182
* Inductance = 1.79uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-182_freq port1 port2 PARAMS: Cpar=0.166pF Ind=1.79uH
X1 port1 port2 Model1B PARAMS:
+ R1=20200
+ R2=1.21
+ C= {Cpar}
+ K1=0.0000145
+ K2=1.39
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3224.68441
.ends 0805LS-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-222_freq port1 port2 PARAMS: Cpar=0.656pF Ind=2.2uH
X1 port1 port2 Model1B PARAMS:
+ R1=380
+ R2=1.28
+ C= {Cpar}
+ K1=0.00000111
+ K2=1.49
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5937.41728
.ends 0805LS-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-75MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-272_freq port1 port2 PARAMS: Cpar=0.511pF Ind=2.7uH
X1 port1 port2 Model1B PARAMS:
+ R1=650
+ R2=1.41
+ C= {Cpar}
+ K1=0.00000117
+ K2=1.76
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6029.77636
.ends 0805LS-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-332
* Inductance = 3.35uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-65MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-332_freq port1 port2 PARAMS: Cpar=0.792pF Ind=3.35uH
X1 port1 port2 Model1B PARAMS:
+ R1=305
+ R2=1.69
+ C= {Cpar}
+ K1=0.00000159
+ K2=2.11
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8407.43014
.ends 0805LS-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-392
* Inductance = 3.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-392_freq port1 port2 PARAMS: Cpar=1.51pF Ind=3.9uH
X1 port1 port2 Model1B PARAMS:
+ R1=161
+ R2=1.77
+ C= {Cpar}
+ K1=2.26E-07
+ K2=2.48
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8955.98313
.ends 0805LS-392_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-472_freq port1 port2 PARAMS: Cpar=1.39pF Ind=4.7uH
X1 port1 port2 Model1B PARAMS:
+ R1=198
+ R2=1.95
+ C= {Cpar}
+ K1=1.88E-07
+ K2=2.87
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9783.56582
.ends 0805LS-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-682
* Inductance = 6.62uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-682_freq port1 port2 PARAMS: Cpar=2.49pF Ind=6.62uH
X1 port1 port2 Model1B PARAMS:
+ R1=144
+ R2=2.47
+ C= {Cpar}
+ K1=0.00000019
+ K2=3.96
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10618.5234
.ends 0805LS-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-22MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-822_freq port1 port2 PARAMS: Cpar=4.12pF Ind=8.2uH
X1 port1 port2 Model1B PARAMS:
+ R1=158
+ R2=2.8
+ C= {Cpar}
+ K1=2.03E-07
+ K2=4.66
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8354.62834
.ends 0805LS-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-103
* Inductance = 9.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-17MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-103_freq port1 port2 PARAMS: Cpar=4.43pF Ind=9.9uH
X1 port1 port2 Model1B PARAMS:
+ R1=142
+ R2=3.89
+ C= {Cpar}
+ K1=2.21E-07
+ K2=5.89
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10229.9437
.ends 0805LS-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-153
* Inductance = 14.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-13MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-153_freq port1 port2 PARAMS: Cpar=4.15pF Ind=14.8uH
X1 port1 port2 Model1B PARAMS:
+ R1=150
+ R2=6.13
+ C= {Cpar}
+ K1=0.00000052
+ K2=9.23
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15175.3017
.ends 0805LS-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-223
* Inductance = 21.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-223_freq port1 port2 PARAMS: Cpar=4.41pF Ind=21.6uH
X1 port1 port2 Model1B PARAMS:
+ R1=156
+ R2=7.69
+ C= {Cpar}
+ K1=4.01E-07
+ K2=12.9
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19639.2267
.ends 0805LS-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805LS-273
* Inductance = 26.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805LS-273_freq port1 port2 PARAMS: Cpar=5.53pF Ind=26.7uH
X1 port1 port2 Model1B PARAMS:
+ R1=117
+ R2=11.9
+ C= {Cpar}
+ K1=7.31E-07
+ K2=14.5
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23138.7694
.ends 0805LS-273_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model w/ constant L
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1B




.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
